US06093731
Anal. Found: C, 41.96: H, 4.65; N, 12.65. Calc. for C19H24BrN5O4S.HCl.90.5H2O: C, 41.96:, 4.82; N, 12.88%. N-[(4-Bromo-1-guanidino-7-isoquinolinyl)sulphonyl]-D-proline tert-butyl ester hydrochloride (150 mg, 0.28 mmol) was treated with an ice-cold solution of HCl in EtOAc (20 ml), and the reaction allowed to warm to room temperature, and stirred for 4 h. The solution was concentrated in vacuo and the crude product purified by column chromatography upon silica gel using CH2Cl2 -MeOH-0.880 NH3 (90:10:1) as eluant. The product was treated with ethereal HCl, the resulting precipitate filtered, washed with Et2O and dried to afford N-[(4-bromo-1-guanidino-7-isoquinolinyl)sulphonyl]-D-proline hydrochloride (75 mg, 0.156 mmol) as a white powder.

reactant | N-[(4-Bromo-1-guanidino-7-isoquinolinyl)sulphonyl]-D-proline tert-butyl ester hydrochloride | 0.28 mmol, 150 mg | Cl.C(C)(C)(C)OC([C@@H]1N(CCC1)S(=O)(=O)C1=CC=C2C(=CN=C(C2=C1)NC(=N)N)Br)=O
reactant | HCl | Cl | ClH
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
product | N-[(4-bromo-1-guanidino-7-isoquinolinyl)sulphonyl]-D-proline hydrochloride | 0.156 mmol, 75 mg | Cl.BrC1=CN=C(C2=CC(=CC=C12)S(=O)(=O)N1[C@@H](C(=O)O)CCC1)NC(=N)N | InChI=1S/C15H16BrN5O4S.ClH/c16-11-7-19-13(20-15(17)18)10-6-8(3-4-9(10)11)26(24,25)21-5-1-2-12(21)14(22)23;/h3-4,6-7,12H,1-2,5H2,(H,22,23)(H4,17,18,19,20);1H/t12-;/m1./s1
